US08076364B2
5-Methoxy-2-methylsulfanyl-pyrimidin-4-ol (250 mg) is dissolved in acetonitrile (7 ml) and thereto are added phosphorus oxychloride (0.7 ml) and N,N-diethyl aniline (460 μl) and the mixture is heated under reflux for 5.5 hours. The reaction solution is evaporated azeotropically with toluene three times, and to the residue are added aqueous citric acid solution and chloroform, and the mixture is separated. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→17:3) to give 4-chloro-5-methoxy-2-methylsulfanyl-pyrimidine (260 mg). MS (m/z): 191/193 [M+H]+

reactant | 5-Methoxy-2-methylsulfanyl-pyrimidin-4-ol | 250 mg | COC=1C(=NC(=NC1)SC)O | C6H8N2O2S
reactant | phosphorus oxychloride | 0.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diethyl aniline | 460 μl | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | 4-chloro-5-methoxy-2-methylsulfanyl-pyrimidine | 260 mg | ClC1=NC(=NC=C1OC)SC | C6H7ClN2OS
